US07612211B2
B. N-tert-butyl-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-4-trifluoromethyl-benzenesulfonamide
A mixture of 2-bromo-N-tert-butyl-4-trifluoromethyl-benzenesulfonamide (1.16 g, 3.22 mmol), dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium (II) dichloromethane adduct (0.26 g, 0.322 mmol), potassium acetate (0.95 g, 9.66 mmol), and bis(pinacolato)diboron (1.64 g, 6.44 mmol) in DMF (10 mL) was heated at 80° C. with stirring for 14 hours. The reaction mixture was then concentrated in vacuo. The residue was purified by chromatography (silica, hexanes: EtOAc, 4:1) to afford the title compound as a yellow solid (0.89 g, 68%).

reactant | 2-bromo-N-tert-butyl-4-trifluoromethyl-benzenesulfonamide | 3.22 mmol, 1.16 g | BrC1=C(C=CC(=C1)C(F)(F)F)S(=O)(=O)NC(C)(C)C | C11H13BrF3NO2S
reactant | potassium acetate | 9.66 mmol, 0.95 g | C(C)(=O)[O-].[K+]
reactant | bis(pinacolato)diboron | 6.44 mmol, 1.64 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium | 0.322 mmol, 0.26 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | N-tert-butyl-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-4-trifluoromethyl-benzenesulfonamide | 0.89 g, 68% | C(C)(C)(C)NS(=O)(=O)C1=C(C=C(C=C1)C(F)(F)F)B1OC(C(O1)(C)C)(C)C | C17H25BF3NO4S
